US04886835
The procedurre is as in Example 2 for the preparation of diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (10 g), a 2M ethanolic solution of sodium ethylate (17.5 cc) and ethyl (isopropylthio)acetate (5.7 g) in ethanol (57 cc). Diethyl 2-dimethylamino-5-isopropylthio-2,4-hexadienedioate (9.8 g) is thereby obtained in the form of an orange-coloured oil, and is used in the crude state in the subsequent syntheses.

reactant | diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C18H23NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 10 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 17.5 cc | CC[O-].[Na+]
reactant | ethyl (isopropylthio)acetate | 5.7 g | C(C)(C)SCC(=O)OCC | C7H14O2S
solvent | ethanol | 57 cc | C(C)O | C2H6O
product | Diethyl 2-dimethylamino-5-isopropylthio-2,4-hexadienedioate | 9.8 g | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C(C)C)C | C15H25NO3S
